US04557753
Synthesis of 4-(2,4-dichlorobenzoyl)-1-methyl-5-(2-chlorobenzyloxy)-pyrazole
To a mixture of 1.33 g (0.0049 mol) of 4-(2,4-dichlorobenzoyl)-1-methyl-5-hydroxypyrazole, 0.54 g (0.0054 mol) of triethylamine and 30 ml of toluene was added 1.3 g (0.0059 mol) of o-chlorobenzyl methanesulfonate. Then, the reaction mixture was refluxed with stirring for 2 hours. After cooling, the reaction mixture was washed with 20 ml of water three times, and the organic layer was separated. After drying over anhydrous sodium sulfate, the organic layer was concentrated under reduced pressure and was subjected to a column chromatography (silica gel, eluent; ethyl acetate:benzene=1:9) to obtain 1.5 g of the title compound (yield: 77%).

reactant | 4-(2,4-dichlorobenzoyl)-1-methyl-5-hydroxypyrazole | 0.0049 mol, 1.33 g | ClC1=C(C(=O)C=2C=NN(C2O)C)C=CC(=C1)Cl | C11H8Cl2N2O2
reactant | triethylamine | 0.0054 mol, 0.54 g | C(C)N(CC)CC | C6H15N
reactant | o-chlorobenzyl methanesulfonate | 0.0059 mol, 1.3 g | CS(=O)(=O)OCC1=C(C=CC=C1)Cl | C8H9ClO3S
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2,4-dichlorobenzoyl)-1-methyl-5-(2-chlorobenzyloxy)-pyrazole | 1.5 g, yield: 77% | ClC1=C(C(=O)C=2C=NN(C2OCC2=C(C=CC=C2)Cl)C)C=CC(=C1)Cl | C18H13Cl3N2O2
